US04207322
6-(o-chloro-phenyl)-8-dimethylamino-4H-s-triazolo-(4,3-a)-pyrido-(2,3-f)-(1,4)-diazepine
This compound was obtained in an analogous manner to that given in Example 10a from 15 grams of 6-(o-chloro-phenyl)-8-chloro-4H-s-triazolo-(4,3-a)-pyrido-(2,3-f)-(1,4)-diazepine and 55 grams of dimethylamine in 500 ml. of ethanol by heating for 5 hours at 120° C. M.P. 240°-242° C. (from methanol); Yield 8.5 grams.

reactant | 6-(o-chloro-phenyl)-8-chloro-4H-s-triazolo-(4,3-a)-pyrido-(2,3-f)-(1,4)-diazepine | 15 grams | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1N=C(C=C3)Cl)C=NN2 | C15H9Cl2N5
reactant | dimethylamine | 55 grams | CNC | C2H7N
reactant | ethanol | C(C)O | C2H6O
solvent | methanol | CO | CH4O
product | 6-(o-chloro-phenyl)-8-dimethylamino-4H-s-triazolo-(4,3-a)-pyrido-(2,3-f)-(1,4)-diazepine | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1N=C(C=C3)N(C)C)C=NN2 | C17H15ClN6
